**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  SMD Power Inductor
* Matchcode:              WE-XHMA
* Library Type:           Pspice
* Version:                rev25a
* Created/modified by:    Ella
* Date and Time:          6/13/2025
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2025 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt XHMA_1090_78439369022_2u2 1 2
Rp 1 2 2074
Cp 1 2 14.601p
Rs 1 N3 0.0022
L1 N3 2 2.242u
.ends XHMA_1090_78439369022_2u2
*******
.subckt XHMA_1090_78439369033_3u3 1 2
Rp 1 2 3017
Cp 1 2 14.697p
Rs 1 N3 0.0034
L1 N3 2 3.164u
.ends XHMA_1090_78439369033_3u3
*******
.subckt XHMA_1090_78439369047_4u7 1 2
Rp 1 2 4114
Cp 1 2 12.704p
Rs 1 N3 0.005
L1 N3 2 4.625u
.ends XHMA_1090_78439369047_4u7
*******
.subckt XHMA_1090_78439369056_5u6 1 2
Rp 1 2 4898
Cp 1 2 13.52p
Rs 1 N3 0.0059
L1 N3 2 5.491u
.ends XHMA_1090_78439369056_5u6
*******
.subckt XHMA_1090_78439369068_6u8 1 2
Rp 1 2 5791
Cp 1 2 14.891p
Rs 1 N3 0.00716
L1 N3 2 7.08u
.ends XHMA_1090_78439369068_6u8
*******
.subckt XHMA_1090_78439369082_8u2 1 2
Rp 1 2 7214
Cp 1 2 12.059p
Rs 1 N3 0.01
L1 N3 2 8.743u
.ends XHMA_1090_78439369082_8u2
*******
.subckt XHMA_1090_78439369100_10u 1 2
Rp 1 2 7876
Cp 1 2 13.203p
Rs 1 N3 0.011
L1 N3 2 10.09u
.ends XHMA_1090_78439369100_10u
*******
.subckt XHMA_1090_78439369150_15u 1 2
Rp 1 2 8204
Cp 1 2 14.622p
Rs 1 N3 0.0148
L1 N3 2 14.546u
.ends XHMA_1090_78439369150_15u
*******
.subckt XHMA_1510_78439370047_4u7 1 2
Rp 1 2 4296
Cp 1 2 22.242p
Rs 1 N3 0.0031
L1 N3 2 4.217u
.ends XHMA_1510_78439370047_4u7
*******
.subckt XHMA_1510_78439370068_6u8 1 2
Rp 1 2 5066
Cp 1 2 21.801p
Rs 1 N3 0.0041
L1 N3 2 6.111u
.ends XHMA_1510_78439370068_6u8
*******
.subckt XHMA_1510_78439370082_8u2 1 2
Rp 1 2 6284
Cp 1 2 25.54p
Rs 1 N3 0.0055
L1 N3 2 8.328u
.ends XHMA_1510_78439370082_8u2
*******
.subckt XHMA_1510_78439370100_10u 1 2
Rp 1 2 5244
Cp 1 2 29.045p
Rs 1 N3 0.0064
L1 N3 2 10.4u
.ends XHMA_1510_78439370100_10u
*******
.subckt XHMA_1510_78439370150_15u 1 2
Rp 1 2 7827
Cp 1 2 24.013p
Rs 1 N3 0.0105
L1 N3 2 15.895u
.ends XHMA_1510_78439370150_15u
*******
.subckt XHMA_1510_78439370220_22u 1 2
Rp 1 2 8204
Cp 1 2 26.195p
Rs 1 N3 0.0125
L1 N3 2 20.695u
.ends XHMA_1510_78439370220_22u
*******
.subckt XHMA_1510_78439370330_33u 1 2
Rp 1 2 10776
Cp 1 2 27.127p
Rs 1 N3 0.018
L1 N3 2 31.904u
.ends XHMA_1510_78439370330_33u
*******
.subckt XHMA_6030_784393440018_0u18 1 2
Rp 1 2 393.041
Cp 1 2 5.062p
Rs 1 N3 0.00132
L1 N3 2 0.176u
.ends XHMA_6030_784393440018_0u18
*******
.subckt XHMA_6030_784393440033_0u33 1 2
Rp 1 2 683.781
Cp 1 2 6.324p
Rs 1 N3 0.0021
L1 N3 2 0.316u
.ends XHMA_6030_784393440033_0u33
*******
.subckt XHMA_6030_784393440056_0u56 1 2
Rp 1 2 876.79
Cp 1 2 7.515p
Rs 1 N3 0.0029
L1 N3 2 0.561u
.ends XHMA_6030_784393440056_0u56
*******
.subckt XHMA_6030_78439344010_1u 1 2
Rp 1 2 1956
Cp 1 2 7.102p
Rs 1 N3 0.0055
L1 N3 2 1.008u
.ends XHMA_6030_78439344010_1u
*******
.subckt XHMA_6030_78439344012_1u2 1 2
Rp 1 2 2178
Cp 1 2 8.182p
Rs 1 N3 0.0064
L1 N3 2 1.105u
.ends XHMA_6030_78439344012_1u2
*******
.subckt XHMA_6030_78439344022_2u2 1 2
Rp 1 2 2927
Cp 1 2 8.36p
Rs 1 N3 0.0105
L1 N3 2 2.182u
.ends XHMA_6030_78439344022_2u2
*******
.subckt XHMA_6030_78439344033_3u3 1 2
Rp 1 2 4970
Cp 1 2 7.979p
Rs 1 N3 0.0192
L1 N3 2 3.247u
.ends XHMA_6030_78439344033_3u3
*******
.subckt XHMA_6030_78439344047_4u7 1 2
Rp 1 2 7211
Cp 1 2 7.002p
Rs 1 N3 0.031
L1 N3 2 4.676u
.ends XHMA_6030_78439344047_4u7
*******
.subckt XHMA_6060_78439346047_4u7 1 2
Rp 1 2 4305
Cp 1 2 7.633p
Rs 1 N3 0.013
L1 N3 2 4.289u
.ends XHMA_6060_78439346047_4u7
*******
.subckt XHMA_6060_78439346056_5u6 1 2
Rp 1 2 5112
Cp 1 2 7.79p
Rs 1 N3 0.015
L1 N3 2 5.311u
.ends XHMA_6060_78439346056_5u6
*******
.subckt XHMA_6060_78439346068_6u8 1 2
Rp 1 2 5867
Cp 1 2 7.976p
Rs 1 N3 0.0176
L1 N3 2 6.553u
.ends XHMA_6060_78439346068_6u8
*******
.subckt XHMA_6060_78439346082_8u2 1 2
Rp 1 2 6820
Cp 1 2 8.668p
Rs 1 N3 0.023
L1 N3 2 7.855u
.ends XHMA_6060_78439346082_8u2
*******
.subckt XHMA_6060_78439346100_10 1 2
Rp 1 2 9786
Cp 1 2 8.192p
Rs 1 N3 0.0265
L1 N3 2 9.539u
.ends XHMA_6060_78439346100_10
*******
.subckt XHMA_6060_78439346150_15u 1 2
Rp 1 2 11178
Cp 1 2 8.829p
Rs 1 N3 0.042
L1 N3 2 15.089u
.ends XHMA_6060_78439346150_15u
*******
.subckt XHMA_8080_78439358010_1u 1 2
Rp 1 2 1445
Cp 1 2 8.916p
Rs 1 N3 0.0021
L1 N3 2 1.014u
.ends XHMA_8080_78439358010_1u
*******
.subckt XHMA_8080_78439358022_2u2 1 2
Rp 1 2 2282
Cp 1 2 10.434p
Rs 1 N3 0.0037
L1 N3 2 2.209u
.ends XHMA_8080_78439358022_2u2
*******
.subckt XHMA_8080_78439358047_4u7 1 2
Rp 1 2 4439
Cp 1 2 10.924p
Rs 1 N3 0.00865
L1 N3 2 4.785u
.ends XHMA_8080_78439358047_4u7
*******
.subckt XHMA_8080_78439358068_6u8 1 2
Rp 1 2 6545
Cp 1 2 7.924p
Rs 1 N3 0.013
L1 N3 2 6.596u
.ends XHMA_8080_78439358068_6u8
*******
.subckt XHMA_8080_78439358100_10u 1 2
Rp 1 2 8417
Cp 1 2 8.116p
Rs 1 N3 0.019
L1 N3 2 10.282u
.ends XHMA_8080_78439358100_10u
*******
